US05399568
1-[1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidyl]-1-(3-pyridyl)methanol.
A solution of oxalyl chloride (3.86 g, 30.4 mmol) in dichloromethane (100 mL) was cooled to -60° C. and treated dropwise with dimethylsulfoxide (2.49 g, 31.89 mmol), resulting in vigorous gas evolution. The resulting mixture was stirred at -60° C. for 15 min, then was treated dropwise with a solution of 1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)4- piperidinemethanol (6.47 g, 20.25 mmol) in dichloromethane (30 mL). This mixture was stirred at -60° C. for 1 h, then was treated with triethylamine (6.15 g, 60.75 mmol). The reaction was allowed to warm to room temperature, then was poured into 10% aqueous sodium hydroxide (50 mL) and extracted with chloroform (3×75 mL). The organic extracts were washed sequentially with 1N aqueous sodium hydroxide (50 mL) and brine (50 mL), combined, dried (K2CO3), filtered and evaporated to leave a tan solid. Trituration with hexane (50 mL) followed by filtration gave the title compound (5.09 g, 16.05 mmol, 79%) as a tan solid. 1H NMR (d6-DMSO): δ9.57 (s, 1H, CHO), 7.28 (m, 2H), 7.17 (m, 2H), 6.91 (m, 4H), 4.30 (s, 1H, H--C(10)), 3.34 (s, 2H, CH2N), 2.86 (m, 2H, eq-H--C(2')), 2.45 (s, 2H, H--C(11)), 2.29 (m, 3H, ax-H--C(2'), H--C(4')), 1.76 (m, 2H, eq-H--C(3')), 1.45 (m, 2H, ax-H--C(3')).

reactant | oxalyl chloride | 30.4 mmol, 3.86 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 31.89 mmol, 2.49 g | CS(=O)C | C2H6OS
reactant | 1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)4- piperidinemethanol | 20.25 mmol, 6.47 g | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)CO | C22H25NO
reactant | triethylamine | 60.75 mmol, 6.15 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 50 mL | [OH-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-[1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidyl]-1-(3-pyridyl)methanol | 16.05 mmol, 5.09 g, 79% | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)C(O)C=3C=NC=CC3 | C27H28N2O
